US06498163B1
8-(3-Phenoxypropyl)-2-phenylamino-8H-pyrido[2,3-d]pyrimidin-7-one
To a suspension of NaH (51 mg of a 60% suspension of NaH in mineral oil) in 6 mL of dimethylformamide was added 2-phenylamino-8H-pyrido[2,3-d]pyrimidin-7-one (200 mg, 0.84 mmol). The reaction mixture was heated to 50° C. resulting in a yellow solution. The solution was cooled slightly, and 3-phenoxypropyl bromide (230 μL, 1.47 mmol) was added. The reaction mixture was heated at 50° C. for 10 minutes, then cooled to room temperature and partitioned between water and ethyl acetate. The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo. Methanol and ethyl acetate were added to the residue, and 60 mg (19%) of 8-(3-phenoxypropyl)-2-phenylamino-8H-pyrido[2,3-d]pyrimidin-7-one was collected by filtration, mp 175-176° C.

reactant | NaH | [H-].[Na+]
reactant | 2-phenylamino-8H-pyrido[2,3-d]pyrimidin-7-one | 0.84 mmol, 200 mg | C1(=CC=CC=C1)NC=1N=CC2=C(N1)NC(C=C2)=O | C13H10N4O
reactant | 3-phenoxypropyl bromide | 1.47 mmol, 230 μL | O(C1=CC=CC=C1)CCCBr | C9H11BrO
solvent | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | 8-(3-Phenoxypropyl)-2-phenylamino-8H-pyrido[2,3-d]pyrimidin-7-one | O(C1=CC=CC=C1)CCCN1C(C=CC2=C1N=C(N=C2)NC2=CC=CC=C2)=O | C22H20N4O2
